US05639914
21.1 g (0.094 mol) of N-phenyl-p-normalbutylaniline, 15.4 g (0.038 mol) of 4,4'-diiodobiphenyl, 15.7 g (0.11 mol) of anhydrous potassium carbonate, and 1.1 g (0.017 mol) of copper powder were mixed. The mixture was then allowed to undergo reaction at a temperature of 170° to 220° C. for 27 hours. The reaction product was then extracted with 140 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to obtain an oily material. The crude product thus obtained was then purified by column chromatography (carrier: silica gel; elute: 1/5 mixture of toluene and n-hexane) to obtain 13.4 g (yield: 58.6%) of N,N'-bis(p-normalbutylphenyl)-N,N'-diphenylbenzidine. The melting point of the product was from 135.0° C. to 135.5° C.

reactant | N-phenyl-p-normalbutylaniline | 0.094 mol, 21.1 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)CCCC | C16H19N
reactant | 4,4'-diiodobiphenyl | 0.038 mol, 15.4 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.11 mol, 15.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.017 mol, 1.1 g | [Cu] | Cu
product | N,N'-bis(p-normalbutylphenyl)-N,N'-diphenylbenzidine | 13.4 g, yield: 58.6% | C(CCC)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=C(C=C2)CCCC)C=C1)C1=CC=CC=C1 | C44H44N2
